US08604015B2
Phenyl(4-(trifluoromethyl)phenyl)methyl(R)-quinuclidin-3-ylcarbamate (56.0 mg, 0.14 mmol) was dissolved in ethyl acetate (1 ml) and acetonitrile (0.5 ml). The resulting solution was treated with 2-chloro-1-(thiophen-2-yl)ethanone (24.0 mg, 0.15 mmol) and stirred at room temperature overnight. The solvent was evaporated, and the crude was first purified by flash chromatography (DCM/MeOH=95/5) and then by preparative HPLC(CH3CN/H2O) to afford (3R)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-3-((phenyl(4-(trifluoromethyl)phenyl)methoxy)carbonylamino)-1-azoniabicyclo[2.2.2]-octane chloride (30.0 mg, mixture of diastereoisomers).

reactant | Phenyl(4-(trifluoromethyl)phenyl)methyl(R)-quinuclidin-3-ylcarbamate | 0.14 mmol, 56.0 mg | N12C[C@@H](C(CC1)CC2)NC(OC(C2=CC=C(C=C2)C(F)(F)F)C2=CC=CC=C2)=O | C22H23F3N2O2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.15 mmol, 24.0 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | (3R)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-3-((phenyl(4-(trifluoromethyl)phenyl)methoxy)carbonylamino)-1-azoniabicyclo[2.2.2]-octane chloride | 30.0 mg | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)NC(=O)OC(C2=CC=C(C=C2)C(F)(F)F)C2=CC=CC=C2)C=2SC=CC2 | InChI=1S/C28H27F3N2O3S.ClH/c29-28(30,31)22-10-8-21(9-11-22)26(20-5-2-1-3-6-20)36-27(35)32-23-17-33(14-12-19(23)13-15-33)18-24(34)25-7-4-16-37-25;/h1-11,16,19,23,26H,12-15,17-18H2;1H/t19?,23-,26?,33?;/m0./s1
